US07666888B2
5-(3-fluorophenyl)-4-[(3-phenylpyrrolidin-1-yl)carbonyl]isoxazole
5-(3-fluorophenyl)-isoxazole-4-carboxylic acid (47.8 mg, 0.231 mmol), 3-phenylpyrrolidine (40 mg, 0.271 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (92.6 mg, 0.288 mmol) and diisopropylethylamine (49.7 mg, 0.384 mmol) were mixed in dimethylformamide (1.5 mL) and stirred at room temperature over night. Solvent was evaporated in vacuo (0.5-1.0 mL) and the residue was taken up in dichloromethane (1 mL), filtered and purified by normal-phase chromatography (20-50% EtOAc:petroleum ether). The combined fractions were partitioned between H2O/acetic acid (pH 4) and ethyl acetate. The organic fractions were washed with H2O/brine and concentrated in vacuo to afford the title compound. HRMS (ESI, pos. ion) m/z calcd for C20H17FN2O2: 336.1274, found 336.1277.

reactant | 5-(3-fluorophenyl)-isoxazole-4-carboxylic acid | 0.231 mmol, 47.8 mg | FC=1C=C(C=CC1)C1=C(C=NO1)C(=O)O | C10H6FNO3
reactant | 3-phenylpyrrolidine | 0.271 mmol, 40 mg | C1(=CC=CC=C1)C1CNCC1 | C10H13N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.288 mmol, 92.6 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.384 mmol, 49.7 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 5-(3-fluorophenyl)-4-[(3-phenylpyrrolidin-1-yl)carbonyl]isoxazole | FC=1C=C(C=CC1)C1=C(C=NO1)C(=O)N1CC(CC1)C1=CC=CC=C1 | C20H17FN2O2
